US07612075B2
B. (3S, 5R)-1-(2,4-dimethoxy-benzyl)-3,5-dimethyl-4-trifluoroacetyl-piperazin-2-one.
(2S, 2S)-N-(2,4-Dimethoxy-benzyl)-N-(2-hydroxypropyl)-2-(2,2,2-trifluoroacetylamino)-propionamide (3.64 g, 9.29 mmol) is dissolved in 25 mL of tetrahydrofuran. Triphenylphosphate (3.65 g, 14.0 mmol) is added, and the resulting mixture is cooled to 0° C. before diethyl azodicarboxylate (2.2 mL, 14 mmol) is added slowly. The resulting mixture is left to stir overnight. The reaction mixture is condensed, and the residue is purified by column chromatography (SiO2, 25% ethyl acetate/hexane). The desired product, (3S, 5R)-1-(2,4-dimethoxy-benzyl)-3,5-dimethyl-4-trifluoroacetyl-piperazin-2-one (1.5 g, 43% yield), is isolated as a clear oil.

reactant | (2S, 2S)-N-(2,4-Dimethoxy-benzyl)-N-(2-hydroxypropyl)-2-(2,2,2-trifluoroacetylamino)-propionamide | 9.29 mmol, 3.64 g | COC1=C(CN(C([C@H](C)NC(C(F)(F)F)=O)=O)C[C@H](C)O)C=CC(=C1)OC | C17H23F3N2O5
reactant | Triphenylphosphate | 14.0 mmol, 3.65 g | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O4P
reactant | diethyl azodicarboxylate | 14 mmol, 2.2 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (3S, 5R)-1-(2,4-dimethoxy-benzyl)-3,5-dimethyl-4-trifluoroacetyl-piperazin-2-one | 1.5 g, 43% yield | COC1=C(CN2C([C@@H](N([C@@H](C2)C)C(C(F)(F)F)=O)C)=O)C=CC(=C1)OC | C17H21F3N2O4
